US08536165B2
3′,5′-difluoro-2,4′-bipyridin-5-amine
Obtained (50% yield) following the procedure described in example 34 (step A), starting with 6-bromopyridin-3-amine and 3,5-difluoro-4-(tributylstannyl)pyridine.

reactant | 6-bromopyridin-3-amine | BrC1=CC=C(C=N1)N | C5H5BrN2
reactant | 3,5-difluoro-4-(tributylstannyl)pyridine | FC=1C=NC=C(C1[Sn](CCCC)(CCCC)CCCC)F
product | 3′,5′-difluoro-2,4′-bipyridin-5-amine | 50% yield | FC=1C=NC=C(C1C1=NC=C(C=C1)N)F | C10H7F2N3
